US08859574B2
To a microwave reaction vessel was added a mixture of 1-bromo-2,5-dimethyl-4-nitrobenzene (1.15 g, 5.0 mmol), dibutyl vinylboronate (1.16 g, 6.3 mmol), Pd(PPh3)4(289 mg, 0.25 mmol), CsF (2.28 g, 15 mmol) and a mixed solvent (1,2-dimethoxyethane/MeOH=2:1, 15 mL). The mixture was degassed and sealed with N2. The reaction vessel was then heated to 130° C. in a microwave reactor for 15 min. After opening the reaction vessel, the mixture was poured into saturated NH4Cl aqueous solution (30 mL) and extracted with EtOAc (3×50 mL). The combined organic layers were washed with brine and dried (MgSO4). After removing the drying agent by filtration, the filtrate was concentrated and purified by flash column chromatography (silica gel, 0-30% EtOAc in hexanes gradient) to provide 1,4-dimethyl-2-nitro-5-vinylbenzene as needlelike crystals; ESMS m/z 178.1 (M+H+).

reactant | 1-bromo-2,5-dimethyl-4-nitrobenzene | 5.0 mmol, 1.15 g | BrC1=C(C=C(C(=C1)C)[N+](=O)[O-])C | C8H8BrNO2
reactant | dibutyl vinylboronate | 6.3 mmol, 1.16 g | C(=C)B(OCCCC)OCCCC | C10H21BO2
reactant | CsF | 15 mmol, 2.28 g | [F-].[Cs+]
catalyst | Pd(PPh3)4 | 0.25 mmol, 289 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane MeOH | COCCOC.CO
product | 1,4-dimethyl-2-nitro-5-vinylbenzene | CC1=C(C=C(C(=C1)C=C)C)[N+](=O)[O-] | C10H11NO2
